US04590058
The process of EXAMPLE 1 was run continuously with a sodium hydrosulfite solution feed containing 144.8 g/l of Na2S2O4, 11.6 g/l of sodium thiosulfate, 23.8 g/l of sodium sulfite, and 81.1 g/l of sodium bisulfite. The hydrosulfite solution was fed at a rate of 12 gallons per minute to the crystallizer of EXAMPLE 1 to produce a slurry of sodium hydrosulfite dihydrate crystals which was continuously fed to the hydrocyclone series. Product sized crystals were continuously conveyed to the centrifuge at a rate of 1.4 gallons per minute. After dissolving the crystalline cake recovered from the centrifuge, a product solution containing 130.4 g/l of sodium hydrosulfite, and 4.1 g/l of sodium thiosulfate was continuously recovered.

reactant | sodium hydrosulfite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | Na2S2O4 | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | hydrosulfite | S(=O)([O-])S(=O)[O-]
product | sodium hydrosulfite dihydrate | O.O.S(=O)([O-])S(=O)[O-].[Na+].[Na+] | InChI=1S/2Na.H2O4S2.2H2O/c;;1-5(2)6(3)4;;/h;;(H,1,2)(H,3,4);2*1H2/q2*+1;;;/p-2
